US08053458B2
Dissolve 4-hydroxy-6-methyl-pyran-2-one (12.6 g, 100 mmol) in trifluoroacetic acid (50 ml). and add 7.8 g (100 mml) of acetyl chloride dropwise. Heat this mixture at reflux for 5 hours. Evaporate the reaction mixture under reduced pressure. Add 50 ml of water, extract with ethyl acetate (50 ml×3) and combine the organic layers. Wash with brine and dry (sodium sulfate). Chromatograph on silica gel, eluting with chloroform to provide 5.8 g (34.5 mmol) of 3-acetyl-4-hydroxy-6-methyl-pyran-2-one.

reactant | 4-hydroxy-6-methyl-pyran-2-one | 100 mmol, 12.6 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | acetyl chloride | 7.8 g | C(C)(=O)Cl | C2H3ClO
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetyl-4-hydroxy-6-methyl-pyran-2-one | 34.5 mmol, 5.8 g | C(C)(=O)C=1C(OC(=CC1O)C)=O | C8H8O4
